US04735959
4-[(1-(2-Piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-benzoic acid
The above compound was prepared from 4-[(1-(2-piperidinophenyl)-ethyl)-aminocarbonylmethyl]-benzaldehyde by heating with silver oxide in the presence of 1N sodium hydroxide solution for 20 minutes in a steam bath, subsequent acidification with 2N sulfuric acid at a pH of 5, extraction with ethyl acetate, and purification by column chromatography on silica gel (toluene/acetone=1:1).

reactant | 4-[(1-(2-piperidinophenyl)-ethyl)-aminocarbonylmethyl]-benzaldehyde | N1(CCCCC1)C1=C(C=CC=C1)C(C)C(C1=CC=C(C=O)C=C1)C(=O)N | C22H26N2O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
catalyst | silver oxide | [Ag]=O
product | 4-[(1-(2-Piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-benzoic acid | N1(CCCCC1)C1=C(C=CC=C1)C(C)C(C1=CC=C(C(=O)O)C=C1)C(=O)N | C22H26N2O3
